US09102623B2
A2.1) 4-Butoxy-1-chloro-1,1-difluorobut-3-en-2-one
Under stirring at 5° C., 5.0 g (20.2 mmol) of chlorodifluoroacetic anhydride—dissolved in 10 ml of trichloromethane—were added to a mixture of 1.60 g (20.2 mmol) of pyridine and 2.1 g (20.2 mmol) of butyl vinyl ether in 30 ml of trichloromethane. After the addition, stirring was continued at room temperature for another 15 h. 100 ml of water were then added to the mixture, and the organic phase was separated off, dried and concentrated. This gave 3.4 g (80% of theory) of a yellowish oil.

reactant | chlorodifluoroacetic anhydride | 20.2 mmol, 5.0 g | ClC(C(=O)OC(C(Cl)(F)F)=O)(F)F | C4Cl2F4O3
reactant | pyridine | 20.2 mmol, 1.60 g | N1=CC=CC=C1 | C5H5N
reactant | butyl vinyl ether | 20.2 mmol, 2.1 g | C(=C)OCCCC | C6H12O
reactant | water | 100 ml | O | H2O
solvent | trichloromethane | 10 ml | ClC(Cl)Cl | CHCl3
solvent | trichloromethane | 30 ml | ClC(Cl)Cl | CHCl3
product | 4-Butoxy-1-chloro-1,1-difluorobut-3-en-2-one | C(CCC)OC=CC(C(F)(F)Cl)=O | C8H11ClF2O2
